US04456612
6,7-Dichloro-2,3-dihydro-5-(2-fluorobenzoyl)-2-hydroxymethylbenzofuran
A mixture of 2,3-dichloro-6-propenyl-4-(2-fluorobenzoyl)phenol (62.5 g., 0.192 mole) and m-chloroperoxybenzoic acid (47.6 g., 0.22 mole) in 550 ml. of methylene chloride was stirred at room temperature for 24 hours. The precipitated m-chlorobenzoic acid was removed by filtration and the filtrate was washed successively with 5% aqueous sodium sulfite and 10% aqueous sodium bicarbonate. The methylene chloride was kept at room temperature for 4 days and then washed with 0.5N NaOH solution. After drying over MgSO4, the solvent was evaporated to give 45 g. of solid product, m.p. 148°-150° C.

reactant | 2,3-dichloro-6-propenyl-4-(2-fluorobenzoyl)phenol | 0.192 mole, 62.5 g | ClC1=C(C(=CC(=C1Cl)C(C1=C(C=CC=C1)F)=O)C=CC)O | C16H11Cl2FO2
reactant | m-chloroperoxybenzoic acid | 0.22 mole, 47.6 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6,7-Dichloro-2,3-dihydro-5-(2-fluorobenzoyl)-2-hydroxymethylbenzofuran | ClC1=C(C2=C(CC(O2)CO)C=C1C(C1=C(C=CC=C1)F)=O)Cl | C16H11Cl2FO3
